US08217032B2
[2-(4,5-Difluoro-2-methoxy-phenyl)-6-methoxy-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone
Add trifluoromethanesulfonic acid 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl ester (2.3 gm, 4.2 mmoles), bis(pinacolato)diboron (1.3 gm, 5.1 mmoles), palladium II acetate (97 mg, 0.4 mmoles), triphenylphosphine (222 mg, 0.84 mmoles) and cesium fluoride (2.1 gm, 14.1 mmoles) in a 250 ml round bottom flask under nitrogen and add 100 ml of anhydrous acetonitrile. Stir and heat to reflux for 2 hours. Allow the mixture to cool and to this mixture add 2-bromo-4,5-difluoroanisole (2.8 gm, 12.5 mmoles), palladium II acetate (96 mg, 0.43 mmoles) triphenylphosphine (222 mg, 0.84 moles) and cesium fluoride (1.8 gm, 12.2 mmoles). Reflux the mixture for 18 hours and filter through Celite. Evaporate the solvent and pass through an SCX column eluting the product with 2N ammonia/methanol. The product is purified on a silica column eluting with a gradient of 25% THF/hexane to 5% 2N ammonia/methanol in 25% THF/Hexane. LC/MS gives a peak with the proper mass.

reactant | trifluoromethanesulfonic acid 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl ester | 4.2 mmoles, 2.3 gm | COC=1C=C2C=CC(=C(C2=CC1)C(C1=CC=C(C=C1)OCCN1CCCCC1)=O)OS(=O)(=O)C(F)(F)F | C26H26F3NO6S
reactant | bis(pinacolato)diboron | 5.1 mmoles, 1.3 gm | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | triphenylphosphine | 0.84 mmoles, 222 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | cesium fluoride | 14.1 mmoles, 2.1 gm | [F-].[Cs+]
reactant | 2-bromo-4,5-difluoroanisole | 12.5 mmoles, 2.8 gm | BrC1=C(C=C(C(=C1)F)F)OC | C7H5BrF2O
reactant | cesium fluoride | 12.2 mmoles, 1.8 gm | [F-].[Cs+]
catalyst | palladium II acetate | 0.4 mmoles, 97 mg | CC(=O)O.CC(=O)O.[Pd]
catalyst | palladium II acetate | 0.43 mmoles, 96 mg | CC(=O)O.CC(=O)O.[Pd]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | [2-(4,5-Difluoro-2-methoxy-phenyl)-6-methoxy-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | FC1=CC(=C(C=C1F)C1=C(C2=CC=C(C=C2C=C1)OC)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)OC | C32H31F2NO4
